US07541372B2
2-(4-Imidazol-1-yl-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole
As described for example 26, 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.57 mmol) was converted using imidazole instead of thiomorpholine to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 40:40:20, 82 mg, 36%) which was obtained as an off-white solid. MS: m/e=400.2 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.57 mmol, 200 mg | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 2-(4-Imidazol-1-yl-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 82 mg, 36% | N1(C=NC=C1)C1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C22H17N5O3
